US04622326
3-(4-Chlorophenyl)-6-ethyl-6H-isoxazolo[5,4-d]pyrazolo[3,4-b]pyridine
5-(4-chlorobenzoyl)-1-ethyl-4-isopropylideneaminooxy-1H-pyrazolo-[3,4-b]pyridine (3.54 g) was refluxed for 2 hours in 75 ml of 2:1 5% hydrochloric acid/ethanol. The reaction mixture was distributed between water and ether and then the ether layer was washed with 5% sodium hydroxide. Evaporation of the ether gave 1.30 g of product. An analytical sample was recrystallized from hexane which had mp 195°-197° C.

reactant | 5-(4-chlorobenzoyl)-1-ethyl-4-isopropylideneaminooxy-1H-pyrazolo-[3,4-b]pyridine | 3.54 g | ClC1=CC=C(C(=O)C=2C(=C3C(=NC2)N(N=C3)CC)ON=C(C)C)C=C1 | C18H17ClN4O2
reactant | hydrochloric acid ethanol | Cl.C(C)O
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 3-(4-Chlorophenyl)-6-ethyl-6H-isoxazolo[5,4-d]pyrazolo[3,4-b]pyridine | 1.30 g | ClC1=CC=C(C=C1)C1=NOC2=C3C(=NC=C21)N(N=C3)CC | C15H11ClN4O
